US06214992B1
a) 7-Benzylguanine hydrochloride
40 ml (0.34 ml) of benzyl bromide were added dropwise to a suspension of 40 g (0.147 mol) of guanosine in 200 ml of dimethyl sulfoxide and the mixture was stirred at room temperature for 4 hours. It was treated with 100 ml of concentrated hydrochloric acid and stirred at room temperature for 30 minutes. It was then poured into 1200 ml of methanol, and the precipitate was filtered off with suction and washed with methanol.

reactant | benzyl bromide | 40 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | guanosine | 0.147 mol, 40 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C10H13N5O5
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | methanol | 1200 ml | CO | CH4O
solvent | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
product | 7-Benzylguanine hydrochloride | Cl.C(C1=CC=CC=C1)N1C=NC=2N=C(NC(C12)=O)N | InChI=1S/C12H11N5O.ClH/c13-12-15-10-9(11(18)16-12)17(7-14-10)6-8-4-2-1-3-5-8;/h1-5,7H,6H2,(H3,13,15,16,18);1H
